US04904671
4-(2-Chlorophenyl)-3-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)butoxycarbonyl]-2-methyl-6-phenyl-5-(N-pyrid-2-ylcarbamoyl)-1,4-dihydropyridine hemihydrate
A solution of N-(pyrid-2-yl)-3-phenyl-3-oxopropionamide (0.84 g, 3.5 mM--see Preparation 15), 2-chlorobenzaldehyde (0.49 g, 3.5 mM) and 4-(2-methylimidazo[4,5-c]pyrid-1-yl)butyl 3-aminobut-2-enoate (1.01 g, 3.5 mM--see Preparation 13) in absolute ethanol (20 cm3) was heated at reflux, under nitrogen, for 16 hours. The cooled solution was evaporated to dryness and the residue purified by column chromatography on silica (Merck "Kieselgel 60"--Trade Mark) (2 passes) eluting primarily with ethyl acetate:diethylamine 97:3 and, secondly, dichloromethane: methanol 97:3. The product-containing fractions were evaporated to dryness, the residue re-dissolved in 2 cm3 dichloromethane, and the required solid precipitated by the addition of 25 cm3 ether, yield 0.35 g (16%), m.p. 124°-127°.

reactant | N-(pyrid-2-yl)-3-phenyl-3-oxopropionamide | 3.5 mM, 0.84 g | N1=C(C=CC=C1)NC(CC(=O)C1=CC=CC=C1)=O | C14H12N2O2
reactant | 2-chlorobenzaldehyde | 3.5 mM, 0.49 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-(2-methylimidazo[4,5-c]pyrid-1-yl)butyl 3-aminobut-2-enoate | 3.5 mM, 1.01 g | NC(=CC(=O)OCCCCN1C(=NC=2C=NC=CC21)C)C | C15H20N4O2
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-3-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)butoxycarbonyl]-2-methyl-6-phenyl-5-(N-pyrid-2-ylcarbamoyl)-1,4-dihydropyridine hemihydrate | O.ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(NC1=NC=CC=C1)=O)C1=CC=CC=C1)C)C(=O)OCCCCN1C(=NC=2C=NC=CC21)C.ClC2=C(C=CC=C2)C2C(=C(NC(=C2C(NC2=NC=CC=C2)=O)C2=CC=CC=C2)C)C(=O)OCCCCN2C(=NC=1C=NC=CC12)C | InChI=1S/2C36H33ClN6O3.H2O/c2*1-23-31(36(45)46-21-11-10-20-43-24(2)41-28-22-38-19-17-29(28)43)32(26-14-6-7-15-27(26)37)33(34(40-23)25-12-4-3-5-13-25)35(44)42-30-16-8-9-18-39-30;/h2*3-9,12-19,22,32,40H,10-11,20-21H2,1-2H3,(H,39,42,44);1H2
